US07465815B2
N-(3-(4-Isopropylbenzyl)-4-hydroxy-2,6-dimethylphenyl)-3,3-dimethylbutanamide
To a solution of N-(3-(4-isopropylbenzyl)-4-methoxy-2,6-dimethylphenyl)-3,3-dimethylbutanamide obtained in Reference Example 333 (1.99 g, 5.21 mmol) in dichloromethane (25 mL) was added dropwise boron tribromide (a 1.0 M dichloromethane solution, 10.4 mL, 10.4 mmol) under argon atmosphere at −78° C., and the mixture was stirred for 30 minutes. The reaction solution was warmed to room temperature and was stirred for 14 hours. The reaction solution was added to a saturated sodium hydrogen carbonate solution to separate the organic layer, and then the aqueous layer was extracted with ethyl acetate. The entire organic layer was washed with a saturated brine, dried over anhydrous sodium sulfate, filtered and then concentrated under reduced pressure to obtain 1.83 g (yield 97%) of the oily title compound. Melting point: 202-203° C. (ethyl acetate).

reactant | N-(3-(4-isopropylbenzyl)-4-methoxy-2,6-dimethylphenyl)-3,3-dimethylbutanamide | C(C)(C)C1=CC=C(CC=2C(=C(C(=CC2OC)C)NC(CC(C)(C)C)=O)C)C=C1 | C25H35NO2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.0 M | ClCCl | CH2Cl2
product | N-(3-(4-Isopropylbenzyl)-4-hydroxy-2,6-dimethylphenyl)-3,3-dimethylbutanamide | 1.83 g, yield 97% | C(C)(C)C1=CC=C(CC=2C(=C(C(=CC2O)C)NC(CC(C)(C)C)=O)C)C=C1 | C24H33NO2
